US04812462
Methyl-1-(3-methylphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate.
A solution of 2.7 mL 3-methylbenzyl bromide, 5.0 g methyl-5-diphenylacetyl-3-(2-oxo-2-phenyl- ethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate and 50 mL acetonitrile is heated at reflux 4 hr. The cooled solution is added dropwise to 750 mL vigorously stirred ether and the resulting precipitate is collected by filtration. This precipitate is dissolved in 75 mL methanol and treated with 16 g zinc dust and 75 mL acetic acid. The resulting suspension is sonicated 6 hr then the solution is filtered from excess zinc. The filtrate is dissolved in 400 mL dichloromethane and treated dropwise with 650 mL 10% Na2CO3 with vigorous stirring. The organic phase is separated, dried, concentrated and the major product is isolated by chromatography on silica gel (chloroform-methanol, 99.5:0.5) as a crisp foam. NMR (CDCl3) 4.97 (s,2H,NCH2Ar).

reactant | 3-methylbenzyl bromide | 2.7 mL | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | methyl-5-diphenylacetyl-3-(2-oxo-2-phenyl- ethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate | 5.0 g | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N(CN2)CC(C2=CC=CC=C2)=O | C30H29N3O4
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | Methyl-1-(3-methylphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N=CN2CC2=CC(=CC=C2)C | C30H29N3O3
